US07851469B2
4-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-N-(tetrahydro-pyran-4-yl)-benzamide
As described for Example 10, 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester (80 mg, 0.19 mmol) was converted, using 4-aminotetrahydropyran instead of cyclopropanemethylamine, to the title compound (75 mg, 80%) which was obtained as a white foam. MS: m/e=483.2 [M+H]+.

reactant | 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | 0.19 mmol, 80 mg | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C21H14F3N3O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 4-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-N-(tetrahydro-pyran-4-yl)-benzamide | 75 mg, 80% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C(=O)NC2CCOCC2)C=C1)C(F)(F)F | C25H21F3N4O3
